US06849636B2
Methyl 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylate (4-C) (1.0 g, 3.38 mmol) was stirred in a solution of 90% methanol and 10% water (50 mL). Excess potassium hydroxide (2.0 g) was added. The mixture was refluxed overnight. The cooled mixture was acidified with 1N hydrochloric acid (100 mL) and then washed twice with ethyl acetate (100 mL). The combined organic layers were dried (MgSO4). Ethyl acetate was removed in vacuo yielding pure 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylic acid (4-D).

reactant | Methyl 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylate | 3.38 mmol, 1.0 g | CC1(OCCO1)CCCC12CCC(CC1)(CC2)C(=O)OC | C17H28O4
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylic acid | CC1(OCCO1)CCCC12CCC(CC1)(CC2)C(=O)O | C16H26O4
